US06482832B1
a) Ethyl 2-(1,2,3,4-tetrahydroisoquinolin-2-yl)nicotinate
4.0 g (19.4 mmol) of ethyl 2-chloronicotinate, together with 3.2 g (19.4 mmol) of 1,2,3,4-tetrahydroisoquinoline hydrochloride and 5.36 g of potassium carbonate were heated at 110° C. for 3 h in 50 ml of DMF while stirring. Water was then added and the whole was extracted with ether; the ether phase was then washed with ammonium chloride, dried and evaporated. The crude product was purified chromatographically (silica gel/heptane-ethyl acetate 20-1), giving a yield of 4.8 g (87%).

reactant | ethyl 2-chloronicotinate | 19.4 mmol, 4.0 g | ClC1=C(C(=O)OCC)C=CC=N1 | C8H8ClNO2
reactant | 1,2,3,4-tetrahydroisoquinoline hydrochloride | 19.4 mmol, 3.2 g | Cl.C1NCCC2=CC=CC=C12
reactant | potassium carbonate | 5.36 g | C([O-])([O-])=O.[K+].[K+]
reactant | Water | O | H2O
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | Ethyl 2-(1,2,3,4-tetrahydroisoquinolin-2-yl)nicotinate | C1N(CCC2=CC=CC=C12)C1=C(C(=O)OCC)C=CC=N1 | C17H18N2O2
